US06326369B1
4-[3-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)propoxy]benzoic acid
To a mixture of 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoic acid (1.20 g), 2,6-pyridinedicarboxylic acid (1.44 g), THF (24 ml), and water (12 ml) was dropwise added a solution of CAN (6.30 g) in water (12 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate) and then with recrystallization from ethyl acetate to yield the entitled compound (868 mg) as crystals.

reactant | 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoic acid | 1.20 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCOC1=CC=C(C(=O)O)C=C1 | C23H28O7
reactant | 2,6-pyridinedicarboxylic acid | 1.44 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 24 ml | C1CCOC1 | C4H8O
reactant | CAN | 6.30 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | 12 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | 4-[3-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)propoxy]benzoic acid | 868 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCOC1=CC=C(C(=O)O)C=C1)=O | C21H22O7
